US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using 1-methyl-1H-pyrazol-3-ylamine instead of 2-aminoethyl isopropylether, to the title compound (110 mg, 87%) which was obtained as a colourless oil. MS: m/e=390.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 1-methyl-1H-pyrazol-3-ylamine | CN1N=C(C=C1)N | C4H7N3
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-nicotinamide | 110 mg, 87% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2=NN(C=C2)C)C=C1 | C21H19N5O3
